US08466284B2
In a bomb tube of stainless steel (Parr) fitted with an internal cylindrical glass vessel and magnetic stirrer, methyl 6-iodo-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate (SM1, 1447 mg, 3.3 mmol), 4-(2-amino-2-methylpropylamino)benzonitrile (750 mg, 4.0 mmol), triethylamine (3.2 mL, 23 mmol) and acetonitrile (35 mL) were mixed. The mixture was purged with argon for 10 minutes. After adding bis(tributylphosphine)palladium (120 mg, 0.23 mmol), the bomb tube was sealed, evacuated and back-filled with carbon monoxide five consecutive times. The contents of the bomb tube were stirred under carbon monoxide (6.5 bar) at 50° C. for 9 h. LC-MS indicated about 50% conversion to desired product and unreacted SM. The dark red-brown solution was concentrated to dryness, dissolved in ethyl acetate (200 mL), washed with water (2×50 mL), dried over anhydrous sodium sulfate, filtered and concentrated with silica to dryness. Flash chromatography on silica with ethyl acetate/n-heptane (1:3 and 1:1) as eluents gave methyl 6-(1-(4-cyanophenylamino)-2-methylpropan-2-ylamino)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate (0.38 g, 22%) as a yellow solid.

reactant | methyl 6-iodo-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate | 3.3 mmol, 1447 mg | IC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H10F3IN2O3
reactant | 4-(2-amino-2-methylpropylamino)benzonitrile | 4.0 mmol, 750 mg | NC(CNC1=CC=C(C#N)C=C1)(C)C | C11H15N3
reactant | triethylamine | 23 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | methyl 6-(1-(4-cyanophenylamino)-2-methylpropan-2-ylamino)-5-methyl-3-oxo-4-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrazine-2-carboxylate | 0.38 g, 22% | C(#N)C1=CC=C(C=C1)NCC(C)(C)NC1=C(N(C(C(=N1)C(=O)OC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C25H24F3N5O3
